### PR TITLE
Refresh Set in evar_define

### LINKED ISSUE #12906: Coq chosing `Set` instead of `Type` without an obvious reason
#### Description of the problem

In the following example, the first argument (`T`) of  `last` is put in `Set` instead of `Type` and I do not quite understand why.

```coq
Set Universe Polymorphism.
Inductive list@{U1} {T : Type@{U1}} : Type :=
| nil
| cons : T -> list -> list.
Arguments list _ : clear implicits.

Fixpoint last {T} (l : list T) {struct l} : match l with | nil => unit | cons _ _ => T end :=
  match l as l return
        match l with | nil => unit | cons _ _ => T end
  with
  | nil => tt
  | cons t l =>
    let f := last l in
    match l as l return
        (match l with | nil => unit | cons _ _ => T end) -> T
    with
    | nil => fun _ => t
    | cons _ _ => fun t => t
    end f
  end
.
```

It is not because of `Universe Minimization ToSet` (or at least it occurs when that is disabled, too). I can get Coq to choose `Type` if I annotate the matches that return `T` with `return Type`.

#### Coq Version

8.11 (I don't have anything newer around right now.)

### PR DESCRIPTION
**Pull request by SkySkimmer**
Breaks a rewrite in the stdlib for unknown reasons.

Fix #12906

### CODE REVIEW

**Comment by gares** [comment]
Is this a draft? (I see an Admitted...)

File: theories/Reals/Cauchy/ConstructiveCauchyReals.v [hunk 1]
```diff
@@ -725,9 +725,10 @@ Qed.
 Lemma CReal_plus_lt_compat_r :
   forall x y z : CReal, y < z -> y + x < z + x.
 Proof.
-  intros x y z.
+  intros x y z ?.
   do 2 rewrite <- (CReal_plus_comm x).
   apply CReal_plus_lt_compat_l.
+  assumption.
```
Comment (SkySkimmer) [inline theories/Reals/Cauchy/ConstructiveCauchyReals.v:731]: I don't understand why we suddenly need to intro before rewriting here (the goal before the rewrite on master is `y < z -> y + x < z + x`, for some reason we need to intro to avoid rewriting under an arrow)
cc @mattam82

File: pretyping/evarsolve.ml [hunk 2]
```diff
@@ -1713,7 +1713,7 @@ and evar_define unify flags ?(choose=false) ?(imitate_defs=true) env evd pbty (e
     (* so we recheck acyclicity *)
     if occur_evar_upto_types evd' evk body then raise (OccurCheckIn (evd',body));
     (* needed only if an inferred type *)
-    let evd', body = refresh_universes pbty env evd' body in
+    let evd', body = refresh_universes ~status:UState.univ_flexible ~refreshset:true pbty env evd' body in
```
Comment (SkySkimmer) [inline pretyping/evarsolve.ml:1716]: I don't know if doing a rigid refresh was intentional here.

Comment (herbelin) [reply pretyping/evarsolve.ml:1716]: This comes from 2005 (9061ea66e66) and I don't know either. Were there flexible universes at this time?

Comment (mattam82) [reply pretyping/evarsolve.ml:1716]: There were no flexibles at the time, but we surely should use a flexible to refresh.

File: theories/Reals/Cauchy/ConstructiveCauchyReals.v (hunk 1 above)
Comment (mattam82) [reply theories/Reals/Cauchy/ConstructiveCauchyReals.v:731]: This probably reflects the fact that trans_co_eq_inv_arrow_morphism takes less universes than before and hence is less general, so that setoid_rewriting fails to build a proof here (I suppose the arrow -> here is in type because we're dealing with computable reals)?

**Comment by SkySkimmer** [comment]
Too hard to understand the failures for now, maybe I'll come back to it someday.

**Comment by herbelin** [comment]
This seems to be related to #13285 (Postpone evar <= sort and sort <= evar).
